US05637593
Ethyl 4-chloro-5-phenoxyindole-2-carboxylate (0.302 g, 0.956 mmol) was hydrolysed in methanolic NaOH (3.2M, 1.7 mL) at reflux, for 1.5 hr After work-up, the product: 4-chloro-5-phenoxyindole-2-carboxylic acid was obtained as an almost white solid, 0.275 g (ca 100%).

reactant | Ethyl 4-chloro-5-phenoxyindole-2-carboxylate | 0.956 mmol, 0.302 g | ClC1=C2C=C(NC2=CC=C1OC1=CC=CC=C1)C(=O)OCC | C17H14ClNO3
solvent | NaOH | 3.2M, 1.7 mL | [OH-].[Na+]
product | 4-chloro-5-phenoxyindole-2-carboxylic acid | ClC1=C2C=C(NC2=CC=C1OC1=CC=CC=C1)C(=O)O | C15H10ClNO3
